US06107036
6-Chloro-5-hydroxy-2,2-dimethyl-benzofurane-3-thione
A solution of 20 mmol 6-chloro-5-hydroxy-2,2-dimethyl-benzofuran-3-one in 30 ml toluene is admixed with 10 mmol Lawesson's reagent and heated for 3 hours to boiling under reflux. After cooling to room temperature it is filtered on 50 g silica gel. The red fraction of the filtrate is collected. After removing the toluene by distillation a red oil remains.

reactant | 6-chloro-5-hydroxy-2,2-dimethyl-benzofuran-3-one | 20 mmol | ClC1=CC2=C(C(C(O2)(C)C)=O)C=C1O | C10H9ClO3
reactant | Lawesson's reagent | 10 mmol | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Chloro-5-hydroxy-2,2-dimethyl-benzofurane-3-thione | ClC1=CC2=C(C(C(O2)(C)C)=S)C=C1O | C10H9ClO2S
